* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -1.8946633183777333e-05
Fd1_1 0 s1 V1 -0.0009473316591888667
Gr1_re_1_1 0 s1 x1_re_a1 0 1295580837.1514947
Gr1_im_1_1 0 s1 x1_im_a1 0 260603254.67784515
Gr2_re_1_1 0 s1 x2_re_a1 0 -2464456556.72936
Gr2_im_1_1 0 s1 x2_im_a1 0 -376128079.8249125
Gr3_re_1_1 0 s1 x3_re_a1 0 -955014286.5698938
Gr3_im_1_1 0 s1 x3_im_a1 0 4503568868.09224
Gr4_re_1_1 0 s1 x4_re_a1 0 -14468608930.169882
Gr4_im_1_1 0 s1 x4_im_a1 0 -1247884453.855195
Gr5_re_1_1 0 s1 x5_re_a1 0 3684562893.3295226
Gr5_im_1_1 0 s1 x5_im_a1 0 6904853529.183899
Gr6_re_1_1 0 s1 x6_re_a1 0 9412248245.526566
Gr6_im_1_1 0 s1 x6_im_a1 0 3465367395.39196
Gr7_re_1_1 0 s1 x7_re_a1 0 -22514983349.106167
Gr7_im_1_1 0 s1 x7_im_a1 0 -4860978587.147767
Gr8_re_1_1 0 s1 x8_re_a1 0 10458876421.734882
Gr8_im_1_1 0 s1 x8_im_a1 0 1822628511.7245245
Gr9_re_1_1 0 s1 x9_re_a1 0 26404137159.739044
Gr9_im_1_1 0 s1 x9_im_a1 0 -7836313256.066241
Gr10_re_1_1 0 s1 x10_re_a1 0 -16979146083.351141
Gr10_im_1_1 0 s1 x10_im_a1 0 7107187250.138649
Gr11_re_1_1 0 s1 x11_re_a1 0 -1270236341.608834
Gr11_im_1_1 0 s1 x11_im_a1 0 -16871958109.402575
Gr12_re_1_1 0 s1 x12_re_a1 0 -3499777456.0199184
Gr12_im_1_1 0 s1 x12_im_a1 0 -25982214775.291805
Gd1_2 0 s1 p2 0 0.004078296169829766
Fd1_2 0 s1 V2 0.2039148084914883
Gr1_re_1_2 0 s1 x1_re_a2 0 265876437.7864327
Gr1_im_1_2 0 s1 x1_im_a2 0 410277997.51667494
Gr2_re_1_2 0 s1 x2_re_a2 0 260477553.1143995
Gr2_im_1_2 0 s1 x2_im_a2 0 753034137.6131104
Gr3_re_1_2 0 s1 x3_re_a2 0 281947485.372851
Gr3_im_1_2 0 s1 x3_im_a2 0 148332791.27021402
Gr4_re_1_2 0 s1 x4_re_a2 0 -77146908114.54987
Gr4_im_1_2 0 s1 x4_im_a2 0 -79861197775.96426
Gr5_re_1_2 0 s1 x5_re_a2 0 391127925.4045288
Gr5_im_1_2 0 s1 x5_im_a2 0 477999278.13343203
Gr6_re_1_2 0 s1 x6_re_a2 0 469540547.28216165
Gr6_im_1_2 0 s1 x6_im_a2 0 655173034.2124933
Gr7_re_1_2 0 s1 x7_re_a2 0 47501184625.36908
Gr7_im_1_2 0 s1 x7_im_a2 0 -45672326690.14873
Gr8_re_1_2 0 s1 x8_re_a2 0 -21849280.200299866
Gr8_im_1_2 0 s1 x8_im_a2 0 928162451.5380679
Gr9_re_1_2 0 s1 x9_re_a2 0 -1047969872.1542237
Gr9_im_1_2 0 s1 x9_im_a2 0 3293262166.107703
Gr10_re_1_2 0 s1 x10_re_a2 0 10497731244.403214
Gr10_im_1_2 0 s1 x10_im_a2 0 6005924314.60858
Gr11_re_1_2 0 s1 x11_re_a2 0 -3486959207.1781874
Gr11_im_1_2 0 s1 x11_im_a2 0 3583216304.352737
Gr12_re_1_2 0 s1 x12_re_a2 0 2129161932.3830519
Gr12_im_1_2 0 s1 x12_im_a2 0 3551166023.1085677
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 1.864932613083269e-10
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 306651519471.87494
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -306651519471.87494
Rp1_im_im_a1 0 x1_im_a1 1.864932613083269e-10
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.3635209280230237e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 296838963157.3952
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -296838963157.3952
Rp2_im_im_a1 0 x2_im_a1 1.3635209280230237e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.3833029633576834e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 280266669338.86505
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -280266669338.86505
Rp3_im_im_a1 0 x3_im_a1 1.3833029633576834e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.5468954088052032e-11
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 45019624752.663994
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -45019624752.663994
Rp4_im_im_a1 0 x4_im_a1 1.5468954088052032e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.0996637073478488e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 261230831562.28735
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -261230831562.28735
Rp5_im_im_a1 0 x5_im_a1 1.0996637073478488e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.0302548769640905e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 242848381473.95685
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -242848381473.95685
Rp6_im_im_a1 0 x6_im_a1 1.0302548769640905e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 2.1556697386765185e-11
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 127437833480.45972
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -127437833480.45972
Rp7_im_im_a1 0 x7_im_a1 2.1556697386765185e-11
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.0796614103618841e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 222107544673.39603
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -222107544673.39603
Rp8_im_im_a1 0 x8_im_a1 1.0796614103618841e-10
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 7.745103672357389e-11
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 202213625107.1335
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -202213625107.1335
Rp9_im_im_a1 0 x9_im_a1 7.745103672357389e-11
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 8.365406994324666e-11
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 162657945721.78055
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -162657945721.78055
Rp10_im_im_a1 0 x10_im_a1 8.365406994324666e-11
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 1.0989377903142988e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 169844658743.03677
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -169844658743.03677
Rp11_im_im_a1 0 x11_im_a1 1.0989377903142988e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 8.297616041287464e-11
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 189276463137.78796
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -189276463137.78796
Rp12_im_im_a1 0 x12_im_a1 8.297616041287464e-11
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0040707508556518685
Fd2_1 0 s2 V1 0.20353754278259342
Gr1_re_2_1 0 s2 x1_re_a1 0 264965699.44884118
Gr1_im_2_1 0 s2 x1_im_a1 0 410578456.6047672
Gr2_re_2_1 0 s2 x2_re_a1 0 257554030.80320993
Gr2_im_2_1 0 s2 x2_im_a1 0 754685648.6879987
Gr3_re_2_1 0 s2 x3_re_a1 0 280898775.2246635
Gr3_im_2_1 0 s2 x3_im_a1 0 148703334.71314323
Gr4_re_2_1 0 s2 x4_re_a1 0 -77170873812.07288
Gr4_im_2_1 0 s2 x4_im_a1 0 -79967623821.87845
Gr5_re_2_1 0 s2 x5_re_a1 0 389262189.48403066
Gr5_im_2_1 0 s2 x5_im_a1 0 478468855.21512634
Gr6_re_2_1 0 s2 x6_re_a1 0 467143909.5484243
Gr6_im_2_1 0 s2 x6_im_a1 0 655957960.3822228
Gr7_re_2_1 0 s2 x7_re_a1 0 47613513961.82874
Gr7_im_2_1 0 s2 x7_im_a1 0 -45629321860.54447
Gr8_re_2_1 0 s2 x8_re_a1 0 -24785993.083505526
Gr8_im_2_1 0 s2 x8_im_a1 0 927499836.3465778
Gr9_re_2_1 0 s2 x9_re_a1 0 -1058116364.8823965
Gr9_im_2_1 0 s2 x9_im_a1 0 3288999889.1402807
Gr10_re_2_1 0 s2 x10_re_a1 0 10489998359.17336
Gr10_im_2_1 0 s2 x10_im_a1 0 6043532949.339025
Gr11_re_2_1 0 s2 x11_re_a1 0 -3501145856.7287254
Gr11_im_2_1 0 s2 x11_im_a1 0 3574100336.4979224
Gr12_re_2_1 0 s2 x12_re_a1 0 2118052451.046932
Gr12_im_2_1 0 s2 x12_im_a1 0 3558129292.2734385
Gd2_2 0 s2 p2 0 0.005468246994676354
Fd2_2 0 s2 V2 0.27341234973381773
Gr1_re_2_2 0 s2 x1_re_a2 0 425484696.95113987
Gr1_im_2_2 0 s2 x1_im_a2 0 1755422126.0629168
Gr2_re_2_2 0 s2 x2_re_a2 0 2306075914.090588
Gr2_im_2_2 0 s2 x2_im_a2 0 1570739909.260677
Gr3_re_2_2 0 s2 x3_re_a2 0 3923952162.762192
Gr3_im_2_2 0 s2 x3_im_a2 0 1874621089.8183148
Gr4_re_2_2 0 s2 x4_re_a2 0 -16706514412.854284
Gr4_im_2_2 0 s2 x4_im_a2 0 1062858181.8429116
Gr5_re_2_2 0 s2 x5_re_a2 0 8276307294.552093
Gr5_im_2_2 0 s2 x5_im_a2 0 624034345.7393214
Gr6_re_2_2 0 s2 x6_re_a2 0 9254423843.605114
Gr6_im_2_2 0 s2 x6_im_a2 0 -4505068546.455447
Gr7_re_2_2 0 s2 x7_re_a2 0 -27183207900.32406
Gr7_im_2_2 0 s2 x7_im_a2 0 4297332427.6902075
Gr8_re_2_2 0 s2 x8_re_a2 0 9390513191.307978
Gr8_im_2_2 0 s2 x8_im_a2 0 -5433856826.019287
Gr9_re_2_2 0 s2 x9_re_a2 0 19127013320.40049
Gr9_im_2_2 0 s2 x9_im_a2 0 -22666795526.722324
Gr10_re_2_2 0 s2 x10_re_a2 0 -13160453965.318027
Gr10_im_2_2 0 s2 x10_im_a2 0 14670221362.553175
Gr11_re_2_2 0 s2 x11_re_a2 0 -9621345492.721317
Gr11_im_2_2 0 s2 x11_im_a2 0 -15377627721.369602
Gr12_re_2_2 0 s2 x12_re_a2 0 -17254425488.053497
Gr12_im_2_2 0 s2 x12_im_a2 0 -21920055679.822014
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 1.864932613083269e-10
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 306651519471.87494
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -306651519471.87494
Rp1_im_im_a2 0 x1_im_a2 1.864932613083269e-10
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.3635209280230237e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 296838963157.3952
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -296838963157.3952
Rp2_im_im_a2 0 x2_im_a2 1.3635209280230237e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.3833029633576834e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 280266669338.86505
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -280266669338.86505
Rp3_im_im_a2 0 x3_im_a2 1.3833029633576834e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.5468954088052032e-11
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 45019624752.663994
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -45019624752.663994
Rp4_im_im_a2 0 x4_im_a2 1.5468954088052032e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.0996637073478488e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 261230831562.28735
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -261230831562.28735
Rp5_im_im_a2 0 x5_im_a2 1.0996637073478488e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.0302548769640905e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 242848381473.95685
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -242848381473.95685
Rp6_im_im_a2 0 x6_im_a2 1.0302548769640905e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 2.1556697386765185e-11
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 127437833480.45972
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -127437833480.45972
Rp7_im_im_a2 0 x7_im_a2 2.1556697386765185e-11
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.0796614103618841e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 222107544673.39603
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -222107544673.39603
Rp8_im_im_a2 0 x8_im_a2 1.0796614103618841e-10
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 7.745103672357389e-11
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 202213625107.1335
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -202213625107.1335
Rp9_im_im_a2 0 x9_im_a2 7.745103672357389e-11
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 8.365406994324666e-11
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 162657945721.78055
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -162657945721.78055
Rp10_im_im_a2 0 x10_im_a2 8.365406994324666e-11
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 1.0989377903142988e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 169844658743.03677
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -169844658743.03677
Rp11_im_im_a2 0 x11_im_a2 1.0989377903142988e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 8.297616041287464e-11
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 189276463137.78796
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -189276463137.78796
Rp12_im_im_a2 0 x12_im_a2 8.297616041287464e-11
.ENDS s_equivalent
